US06440975B1
2-Amino-3,3-di(3-methoxyphenyl)propionic acid
6.0 g (19.0 mmol) of methyl 2-amino-3,3-di(3-methoxyphenyl)propionate were refluxed in 140 ml of 6 normal hydrochloric acid for 6 hours. The mixture was then cooled to 0° C., and the precipitate was filtered off, washed with water and dried. The solid was then dissolved in 50 ml of ethanol, 20 ml of propene oxide were added and the mixture was refluxed for 30 minutes. After cooling, the precipitate was filtered off, washed with ethanol and dried. 2.20 g (38.4%) of a white powder of melting piont 168-173° C. were obtained.

reactant | methyl 2-amino-3,3-di(3-methoxyphenyl)propionate | 19.0 mmol, 6.0 g | NC(C(=O)OC)C(C1=CC(=CC=C1)OC)C1=CC(=CC=C1)OC | C18H21NO4
reactant | hydrochloric acid | Cl | ClH
product | 2-Amino-3,3-di(3-methoxyphenyl)propionic acid | NC(C(=O)O)C(C1=CC(=CC=C1)OC)C1=CC(=CC=C1)OC | C17H19NO4
